US04753933
A mixture composed of 4-ethylaminobenzoic acid (18 g), trifluoroacetic anhydride (20.7 cc) and tetrahydrofuran (100 cc) is left stirring for 5 hours at 25° C. The mixture is then poured into water (200 cc) and extracted with methylene chloride (2×200 cc). The organic extracts are washed with distilled water (220 cc), dried over magnesium sulphate and concentrated to dryness at 40° C. under reduced pressure (4 kPa). The product obtained is purified by chromatography on a column 40 mm in diameter containing silica (320 g; 0.04-0.06 mm), eluting with a mixture (98:2 by volume) of methylene chloride and methanol and collecting 20-cc fractions. After concentration of fractions 2 to 21 to dryness at 40° C. under reduced pressure (4 kPa), 4-(N-ethyltrifluoroacetamido)benzoic acid (7 g), m.p. 132° C., is obtained.

reactant | 4-ethylaminobenzoic acid | 18 g | C(C)NC1=CC=C(C(=O)O)C=C1 | C9H11NO2
reactant | trifluoroacetic anhydride | 20.7 cc | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
solvent | water | 200 cc | O | H2O
product | 4-(N-ethyltrifluoroacetamido)benzoic acid | 7 g | C(C)N(C(C(F)(F)F)=O)C1=CC=C(C(=O)O)C=C1 | C11H10F3NO3
